US05047519
A. Preparation of 4-Methylresorcinol
2,4-Dihydroxybenzaldehyde (33.97 gm, 0.246 mol) (recrystallized from toluene) was dissolved in spectroscopic grade 2-propanol (3 L) in a round bottom flask fitted with a gas inlet and a bubbler outlet. 10% Palladium on carbon (1.35 gm) was added followed by phosphoric acid (3 mL) and the mixture was sparged with nitrogen. The nitrogen flow was switched to hydrogen and the mixture was rapidly stirred with ice cooling. After 3 hours hydrogen uptake was complete and the catalyst was removed by filtration. The filtrate was stripped down to 200 mL and 200 mL of ethyl acetate was added. The solution was washed with 4×200 mL of water and the combined water extracts back-extracted with ethyl acetate. These organic extracts were water washed and the combined organic layers dried over sodium sulfate and stripped down to afford the product as a colorless crystalline solid (29.95 gm, 98%). M.p.: 106° C. (Lit. 106°-107° C. [J. C. Bell W. Bridge, and A. Robertson, J. Chem. Soc., 1542-45 (1937)]). NMR (DMSO-d6): δ 1.961 (s, Me). 6.076 (dd, H-6, J[5, 6]=8 hz, J[2,6]=2 hz), 6.231 (d, H-2), 6.760 (d, H-5) 8.867 (s, OH), and 9.008 (s, OH).

reactant | 2,4-Dihydroxybenzaldehyde | 0.246 mol, 33.97 gm | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | phosphoric acid | 3 mL | P(O)(O)(O)=O | H3O4P
solvent | 2-propanol | 3 L | CC(C)O | C3H8O
catalyst | Palladium on carbon | 1.35 gm | [Pd] | Pd
product | 4-Methylresorcinol | 29.95 gm, 98% | CC1=C(C=C(O)C=C1)O | C7H8O2
